US06583162B1
To a solution of t-butyl (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoate (500 mg, 2.0 mmol) in ethanol (10 ml) at RT was added sodium borohydride (317 mg, 8.4 mmol) portionwise and the mixture stirred for 16 h. After the addition of water, the ethanol removed in vacuo and the mixture extracted with diethyl ether. The ethereal extracts were dried over MgSO4, evaporated to dryness and purified by column chromatography upon silica gel using hexane—EtOAc (7:3) as eluant to give t-butyl 3-(2-amino-5-chloro-3-pyridinyl)propanoate as a colourless oil (340 mg, 1.3 mmol).

reactant | t-butyl (E)-3-(2-amino-5-chloro-3-pyridinyl)-2-propenoate | 2.0 mmol, 500 mg | NC1=NC=C(C=C1/C=C/C(=O)OC(C)(C)C)Cl | C12H15ClN2O2
reactant | sodium borohydride | 8.4 mmol, 317 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | t-butyl 3-(2-amino-5-chloro-3-pyridinyl)propanoate | 1.3 mmol, 340 mg | NC1=NC=C(C=C1CCC(=O)OC(C)(C)C)Cl | C12H17ClN2O2
